US06211215B1
In substantially the same manner as in Reference Example 47, 2-thiopheneacetamide was reacted with 1,3-dichloroacetone to give 4-chloromethyl-2-(2-thienylmethyl)oxazole. The yield was 27%. Oily substance.

reactant | 2-thiopheneacetamide | S1C(=CC=C1)CC(=O)N | C6H7NOS
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
product | 4-chloromethyl-2-(2-thienylmethyl)oxazole | yield was 27% | ClCC=1N=C(OC1)CC=1SC=CC1 | C9H8ClNOS
